US04625025
Into 50 ml of methanol were added 8.1 g of 1-amino-3-propanethiol and 5.0 g of caustic soda, followed by stirring, to be completely dissolved therein. Then, the mixture was cooled to 0° C. While stirring the solution, a solution of 5.4 g of 2,2,2-trichloro-1-nitroethane diluted in 20 ml of methanol was added dropwise slowly over 15 minutes, and the reaction was carried out for one hour. The reaction was exothermic and the liquid temperature was maintained at lower than 10° C. (about 8° C.). After the reaction, the reaction mixture was neutralized to pH 7 with 6 N aqueous hydrochloric acid, and then with addition of 50 ml of water, extraction with 100 ml of dichloromethane was repeated four times. The extracts were concentrated to give 2.91 g of tetrahydro-2-(nitromethylene)-1,3-thiazine (yield: 60.1%).

reactant | 1-amino-3-propanethiol | 8.1 g | NCCCS | C3H9NS
reactant | caustic soda | 5.0 g | [OH-].[Na+]
reactant | 2,2,2-trichloro-1-nitroethane | 5.4 g | ClC(C[N+](=O)[O-])(Cl)Cl | C2H2Cl3NO2
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | tetrahydro-2-(nitromethylene)-1,3-thiazine | 2.91 g, yield: 60.1% | [N+](=O)([O-])C=C1SCCCN1 | C5H8N2O2S
